Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / trimethoprim
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/PMHx seizure disorder and LUE DVT on Coumadin was 
transferred from ___ for retroperitoneal hematoma. 
Patient developed severe Left thigh pain on ___ morning, 
which he initially attributed to playing basketball. He was seen 
by his PCP who prescribed ___, cyclobenzaprine and 
ibuprofen. He developed worsening pain over the course of the 
next 2 days. His pain was associated with numbness on his inner 
thigh, knee lower leg He was seen by an orthopedic surgeon who 
thought he may have had a bleed into his hip, and was discharged 
with a plan to get an MRI. On the way home, patient's pain 
became unbearable, so he presented to ___.

At ___, labs were notably for H/H 12.5/37.7 and INR 
3.78. CT showed subacute Left retroperitoneal hematoma along 
Left psoas muscle. Left LENIS were negative for DVT. Patient was 
given morphine for pain control, and he was reversed with 
(??)FIBA/Vit K, and INR improved to 1.7. Patient was transferred 
to ___ for further evaluation.

In the ED, initial vitals: 98.4; 63; 124/81; 15; 100% RA  

- Labs were significant for:
Hct: 36.4->34.8->37.3
K: 5.0
Cr: 0.9
INR: 1.5

- Imaging showed  
CTA A/P:
Large intramuscular hematoma of the left iliacus muscle. No 
evidence of active extravasation.

- In the ED, he received:
Keppra 500mg BID

Patient was seen by ___ who recommended serial abdominal exams 
and Hcts.

There was significant concern that patient was unable to move 
comfortably. Furthermore, there was some concern that he Hct of 
37.3 was spurious. As such, he was admitted for ___ and serial 
Hct.

- Vitals prior to transfer: 
97.1; 55; 120/58; 16; 99% RA 

Upon arrival to the floor, patient reports that his pain is 
improved as compared with yesterday, although he is still very 
uncomfortable. No LH, dizziness, SOB, chest pain. His leg 
numbness is stable. He notes one episode in the ED where he 
accidentally urinated when he was unable to obtain a urinal, but 
otherwise denies any bowel/bladder incontinence or saddle 
anesthesia. With regards to his PMH, he notes that he developed 
an unprovoked DVT ___ years ago and was started on Coumadin. His 
INR was low 2 weeks ago, and his Coumadin was increased 
significantly to 10mg QOD and 7.5mg QOD. He has never seen a 
hematologist, and this was his first DVT. Otherwise, he has a 
seizure disorder, the etiology of which is unknown.

 
Past Medical History:
LUE DVT on coumadin
Seizure disorder on Keppra
History of stab wound to lower back in ___
 
Social History:
___
Family History:
PGM and Aunt with bone cancer. No coagulation disorders, heart 
disease, DM.

 
Physical Exam:
On Admission:
VITAL SIGNS -  98.0; 130/74; 65; 98 RA
GENERAL - Pleasant, well-appearing. NAD.
HEENT - EOMI. MMM. Anicteric sclera. NC/AT.
NECK - Supple.
CARDIAC - RRR. No MRG
LUNGS - CTAB. No w/r/r
ABDOMEN - +BS. Soft. Fullness in LLQ with TTP. No rebound or 
peritoneal signs.
EXTREMITIES - WWP. 2+ DP and radial pulses. No c/c/e
NEUROLOGIC - Numbness in L1 distribution in LLE. Sensation 
normal in RLE.
SKIN - Warm and dry
PSYCHIATRIC - Normal mood/affect

On Discharge:
VITAL SIGNS - 98.7; 102/56; 69; 18; 97 RA
GENERAL - Pleasant, well-appearing. NAD.
HEENT - EOMI. MMM. Anicteric sclera. NC/AT.
NECK - Supple.
CARDIAC - RRR. No MRG
LUNGS - CTAB. No w/r/r
ABDOMEN - +BS. Soft. Fullness in LLQ with TTP, improved from 
prior. No rebound or peritoneal signs.
EXTREMITIES - WWP. 2+ DP and radial pulses. No c/c/e
NEUROLOGIC - Numbness in L1 distribution in LLE. Sensation 
normal in RLE.
SKIN - Warm and dry
PSYCHIATRIC - Normal mood/affect
 
Pertinent Results:
On Admission:
___ 09:40PM BLOOD WBC-7.2 RBC-4.22* Hgb-12.0* Hct-36.4* 
MCV-86 MCH-28.4 MCHC-33.0 RDW-12.1 RDWSD-38.0 Plt ___
___ 09:40PM BLOOD Neuts-61.1 ___ Monos-8.9 Eos-0.4* 
Baso-0.3 Im ___ AbsNeut-4.39 AbsLymp-2.10 AbsMono-0.64 
AbsEos-0.03* AbsBaso-0.02
___ 09:40PM BLOOD ___ PTT-34.4 ___
___ 09:40PM BLOOD Glucose-86 UreaN-14 Creat-0.9 Na-141 
K-5.0 Cl-105 HCO3-23 AnGap-18

CBC:
___ 09:40PM BLOOD WBC-7.2 RBC-4.22* Hgb-12.0* Hct-36.4* 
MCV-86 MCH-28.4 MCHC-33.0 RDW-12.1 RDWSD-38.0 Plt ___
___ 03:35AM BLOOD WBC-5.6 RBC-4.04* Hgb-11.1* Hct-34.8* 
MCV-86 MCH-27.5 MCHC-31.9* RDW-11.9 RDWSD-37.8 Plt ___
___ 09:00AM BLOOD Hct-37.3*
___ 02:45PM BLOOD Hct-36.6*
___ 06:30AM BLOOD WBC-6.1 RBC-4.25* Hgb-12.1* Hct-36.5* 
MCV-86 MCH-28.5 MCHC-33.2 RDW-12.0 RDWSD-37.3 Plt ___

On Discharge:
___ 06:30AM BLOOD WBC-6.1 RBC-4.25* Hgb-12.1* Hct-36.5* 
MCV-86 MCH-28.5 MCHC-33.2 RDW-12.0 RDWSD-37.3 Plt ___
___ 06:30AM BLOOD ___ PTT-29.9 ___
___ 06:30AM BLOOD Glucose-88 UreaN-14 Creat-1.0 Na-139 
K-4.1 Cl-100 HCO3-26 AnGap-17

Imaging:
___ CTA A/P:
IMPRESSION:  
1. Large acute intramuscular hematoma within the left iliacus 
and psoas 
muscles.  No evidence of active extravasation.  No obvious 
enhancing mass or vascular malformation.  MRI could be performed 
for evaluation of muscle tears. No fractures noted. 
2.  Small focus of peribronchial nodularity within the right 
lower lobe medial segment , in the appropriate clinical setting 
could reflect early pneumonia versus minimal atelectasis. 

 
Brief Hospital Course:
___ w/PMHx seizure disorder and LUE DVT on Coumadin was 
transferred from ___ for iliopsoas hematoma. 

#Iliopsoas hematoma: Patient presented to ___ after 
developing severe Left hip pain with associated Left leg 
numbness. CT scan at ___ showed a 2.5cm x 2.5cm x 6.8cm 
hematoma along the iliopsoas muscle. H/H was 12.5/37.7 and INR 
was 3.78. Patient was given (??)Feiba and vitamin K and 
transferred to ___. CTA showed to active extravasation, and 
patient was admitted for serial abdominal exams. Patient's 
symptoms improved while hospitalized, although he notably had 
numbness in the L1 distribution of the Left leg. Serial Hct were 
stable and was 36.5 at the time of discharge. Patient was seen 
by ___ who recommended that patient use crutches and follow up 
with outpatient ___. Patient was discharged without warfarin.

#History of LUE DVT: As above, patient presented with a 
supratherapeutic INR and was reverse at ___. He was 
discharged with a plan to f/u with his PCP regarding the need 
for further anticoagulation, as the story he gave was suggestive 
of a first-occurrence, spontaneous low risk DVT. Coumdadin was 
held at discharge.

#Seizure disorder: Patient was continued on home Keppra while 
hospitalized.

Stopped medications:
Warfarin

Transitional Issues:
-Check H/H at f/u appointment to ensure stability
-Please discuss continued warfarin use with patient;  may 
consider hematology referral if he is felt to have ongoing need 
for anticoagulation based on thrombotic history given his bleed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 500 mg PO BID 
2. Warfarin 10 mg PO 4X/WEEK (___) 
3. Warfarin 7.5 mg PO 3X/WEEK (___) 
4. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN 
BREAKTHROUGH PAIN 
5. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
6. Cyclobenzaprine 10 mg PO TID:PRN Pain 
7. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  LevETIRAcetam 500 mg PO BID  
3.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN 
BREAKTHROUGH PAIN  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
5.Outpatient Physical Therapy
Physical therapy: Patient should have outpatient physical 
therapy, the duration of which should be determined by physical 
therapy.
6.Crutches
1. Crutches
2. Need: Difficulty/pain with ambulation
3. Length of need:  >13 months
4. Diagnosis: Iliopsoas hematoma
5. Prognosis: Good

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Iliopsoas hematoma
DVT on coumadin

Secondary:
Seizure disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you 
had leg pain and were found to have a hematoma of one of your 
muscles.

What we did for you:
-Your Coumadin had already been reverse while you were at 
___. We monitored your blood counts, and they were 
stable. 

What you should do next:
You were seen by physical therapy, who recommended that you go 
to physical therapy as an outpatient and use crutches. You 
should continue using crutches until you feel well enough to 
walk. You should call your PCP's office this week to set up a 
follow up appointment to discuss anticoagulation. In the 
meantime, you should STOP taking Coumadin.

If you have pain, you can take over the counter Tylenol. Do not 
exceed the recommended dose on the back of the bottle. If you 
develop severe pain, you can take the Percocet your PCP 
prescribed for you.

It was a pleasure to help care for you during this 
hospitalization.

Sincerely,
Your ___ Team
 
Followup Instructions:
___